US07960369B2
A mixture of 3-bromobenzaldehyde (6.1 g, 32.7 mmol), 2,6-dimethylphenol (4.0 g, 32.7 mmol), copper oxide (II) (4.4 g, 55.6 mmol), potassium carbonate (9.0 g, 65.4 mmol), pyridine (40 mL) and m-xylene (20 mL) was stirred under a nitrogen atmosphere at 140° C. for 16 hrs. The reaction mixture was cooled, the insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water. The organic layer was washed with saturated brine, dried (anhydrous sodium sulfate), and concentrated under reduced pressure to give crude 3-(2,6-dimethylphenoxy)benzaldehyde (including side product).

reactant | 3-bromobenzaldehyde | 32.7 mmol, 6.1 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | 2,6-dimethylphenol | 32.7 mmol, 4.0 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | potassium carbonate | 65.4 mmol, 9.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper oxide | 55.6 mmol, 4.4 g | [Cu]=O
solvent | m-xylene | 20 mL | C1(=CC(=CC=C1)C)C | C8H10
product | 3-(2,6-dimethylphenoxy)benzaldehyde | CC1=C(OC=2C=C(C=O)C=CC2)C(=CC=C1)C | C15H14O2
